*4077 MCE Nodes: A,B,Y
*MCE mixed-mode 2-input XNOR gate pkg:DIP14 (A:1,2,3)(B:5,6,4)(C:8,9,10)(D:12,13,11)
.SUBCKT X4077 3 4 5
BNLVs1 1 0 V=~(V(3) ! v(4))
R1 1 5 1
C1 5 0 .004uF IC=0V
.ENDS X4077

